US07465731B2
A mixture of (2Z)-3-(5-chloro-6-{[(3R)-1-cyclopentyl-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoroacrylic acid (658 mg), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (229 mg), HOBt (264 mg) and EDCI (303 mg) in DMF (15 ml) was stirred at ambient temperature for 15 hours. The reaction mixture was poured into a mixture of AcOEt-H2O and the organic layer was washed with brine and dried over MgSO4 The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (95:5). The eluted fractions containing the desired product were collected and evaporated in vacuo to give (2Z)-3-(5-chloro-6-{[(3R)-1-cyclopentyl-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoro-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (620 mg).

reactant | (2Z)-3-(5-chloro-6-{[(3R)-1-cyclopentyl-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoroacrylic acid | 658 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)C1CCCC1)\C=C(\C(=O)O)/F | C17H21ClFN3O2
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 229 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBt | 264 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 303 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | AcOEt-H2O | C(=O)(C)OCC.O
product | (2Z)-3-(5-chloro-6-{[(3R)-1-cyclopentyl-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoro-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 620 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)C1CCCC1)\C=C(\C(=O)NOC1OCCCC1)/F | C22H30ClFN4O3
